### PR TITLE
feat(Matrix): Simproc and Rw-proc for Matrix Transpose

### PR DESCRIPTION
**Pull request by kckennylau**
Co-authored by Aaron Liu.

```lean
example : !![1, 2, 3; 4, 5, 6]ᵀ = !![1, 4; 2, 5; 3, 6] := by
  rw [transpose_of% 2 3]

example : !![1, 2, 3; 4, 5, 6]ᵀ = !![1, 4; 2, 5; 3, 6] := by
  rw [transpose_of]

example : !![1, 2, 3; 4, 5, 6]ᵀ = !![1, 4; 2, 5; 3, 6] := by
  simp only [matrix_transpose]
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
See also #24155 and #5863

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 1]
```diff
@@ -0,0 +1,83 @@
...
+
+open Matrix
+open Lean Meta Simp Simproc Tactic Qq
+
+attribute [-simp] cons_transpose
+
+namespace Qq
+
+/-- Decompose a vector expression into a vector of expressions. -/
+def piFinLit! {u : Level} {n : ℕ} {R : Q(Type u)} (e : Q(Fin $n → $R)) :
```
Comment (eric-wieser) [inline Mathlib/Tactic/Simproc/Matrix.lean]: What's the `!` for here? Usually it indicates a panic, but since this returns an `Option` likely `?` would be more appropriate.

You might find you can reuse some code from the `Matrix.cons_val` simproc; or at least, you should add a comment explaining why doing so isn't worth it.

Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: ah, I might have entirely misunderstood the `!` and `?` convention. I used `?` to refer to expressions and `!` to refer to "real" objects. I interpolated this from [Lean.Expr.natLit!](https://leanprover-community.github.io/mathlib4_docs/Batteries/Lean/Expr.html#Lean.Expr.natLit%21)

Comment (eric-wieser) [reply Mathlib/Tactic/Simproc/Matrix.lean]: Yeah, that's `!` because it panics if you call it on `q("a string literal")`

Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: done

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 2]
```diff
@@ -0,0 +1,135 @@
...
+
+attribute [-simp] cons_transpose
+
+namespace Qq
+
+/-- Decompose a vector expression into a vector of expressions. -/
+def piFinLit? {u : Level} {n : ℕ} {R : Q(Type u)} (e : Q(Fin $n → $R)) :
+    MetaM (Option (Fin n → Q($R))) := do
+  match n with
+  | 0 => return .some ![]
```
Comment (eric-wieser) [inline Mathlib/Tactic/Simproc/Matrix.lean]: Strictly you should still be matching on e here

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 3]
```diff
@@ -0,0 +1,135 @@
...
+  | _+1 =>
+    let ~q(vecCons $h $et) := e | return .none
+    let .some t ← piFinLit? et | return .none
+    return .some (vecCons h t)
+
+/-- Decompose a "double vector" expression, i.e. `Fin m → Fin n → R`, into a double vector of
+expressions. -/
+def piFinPiFinLit? {u : Level} {m n : ℕ} {R : Q(Type u)} (e : Q(Fin $m → Fin $n → $R)) :
+    MetaM (Option (Fin m → Fin n → Q($R))) := do
+  match m with
```
Comment (eric-wieser) [inline Mathlib/Tactic/Simproc/Matrix.lean:47]: I think there's a shorter implementation here which is something like `(piFinLit? h).map piFinLit?`

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 4]
```diff
@@ -0,0 +1,135 @@
...
+    MetaM (Option (Matrix (Fin m) (Fin n) Q($R))) := do
+  let ~q(of $eM) := eM | return .none
+  let .some M ← piFinPiFinLit? eM | return .none
+  return of M
+
+/-- Given a matrix of expressions, construct a proof of `(mkLiteralQ M)ᵀ = mkLiteralQ (Mᵀ)`. -/
+def mkTransposeProof {u : Level} {α : Q(Type u)} {m n : ℕ} (M : Matrix (Fin m) (Fin n) Q($α)) :
+    (P : Q(Prop)) × Q($P) :=
+  ⟨q($(mkLiteralQ M)ᵀ = $(mkLiteralQ Mᵀ)),
+  cast (by rfl) q((etaExpand_eq $(mkLiteralQ M)ᵀ).symm)⟩
```
Comment (eric-wieser) [inline Mathlib/Tactic/Simproc/Matrix.lean]: Instead of using `cast` you should add a `letI : _ =Q _` for the thing you are insisting is defeq

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Tactic/Simproc/Matrix.lean:47]: Though probably yours is more performant

Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean:47]: I'm new to monads and tactics, and I don't know how to make (the correct versions of) `map` work with three monads here (`MetaM`, `Option`, and `Fin n -> \.`)

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 2 above)
Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: done

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 4 above)
Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: I've used `id` instead (the same trick Aaron used, which seems to be also how `rw` works).

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 5]
```diff
@@ -0,0 +1,161 @@
...
+
+/-- A custom theorem for reducing transpose of explicit matrices. For example, `transpose_of% 2 3`
+is the theorem saying `!![a, b, c; d, e, f]ᵀ = !![a, d; b, e; c, f]`. Usage:
+
+```lean
+example : (!![1, 2, 3; 4, 5, 6]ᵀ : Matrix (Fin (2+1)) (Fin 2) ℤ) = !![1, 4; 2, 5; 3, 6] := by
+  rw [transpose_of% 2 3]
+``` -/
+elab:max (name := transpose_tac_elab)
+    "transpose_of% " mStx:term:max nStx:term:max : term => do
```
Comment (plp127) [inline Mathlib/Tactic/Simproc/Matrix.lean]: If you will only accept numbers anyways why not just take `mStx:num` and `nStx:num`?

Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: done

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 6]
```diff
@@ -0,0 +1,155 @@
...
+```lean
+example : (!![1, 2, 3; 4, 5, 6]ᵀ : Matrix (Fin (2+1)) (Fin 2) ℤ) = !![1, 4; 2, 5; 3, 6] := by
+  rw [transpose_of% 2 3]
+``` -/
+elab:max (name := transpose_tac_elab)
+    "transpose_of% " mStx:num nStx:num : term => do
+  let u ← Lean.Meta.mkFreshLevelMVar
+  return mkTransposeTheorem u mStx.getNat nStx.getNat
+
+example (u : Matrix (Fin 2) (Fin 3) ℤ) (v : Matrix (Fin 3) (Fin 2) ℤ)
```
Comment (plp127) [inline Mathlib/Tactic/Simproc/Matrix.lean]: This looks like something that belongs in a dedicated test file

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 7]
```diff
@@ -0,0 +1,155 @@
...
+simproc matrix_transpose (Matrix.transpose (Matrix.of _)) := .ofQ fun u α eMT ↦ do
+  let .succ _ := u | return .continue
+  let ~q(@Matrix (Fin (OfNat.ofNat $en)) (Fin (OfNat.ofNat $em)) $R) := α | return .continue
+  let ~q(transpose $eM) := eMT | return .continue
+  let .some M ← matrixLit? (m := em.natLit!) (n := en.natLit!) (R := R) eM | return .continue
+  let h := mkTransposeProof M
+  let ⟨0, ~q($lhs = $rhs), h⟩ ← inferTypeQ h | return .continue
+  return .visit { expr := rhs, proof? := .some h }
+
+example (u : Matrix (Fin 2) (Fin 3) ℤ) (v : Matrix (Fin 3) (Fin 2) ℤ)
```
Comment (plp127) [inline Mathlib/Tactic/Simproc/Matrix.lean]: This should also go in a test file

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 8]
```diff
@@ -0,0 +1,155 @@
...
+def mkTransposeProp {u : Level} {α : Q(Type u)} {m n : ℕ} (M : Matrix (Fin m) (Fin n) Q($α)) :
+    Q(Prop) :=
+  q($(mkLiteralQ M)ᵀ = $(mkLiteralQ Mᵀ))
+
+/-- Given a matrix of expressions, construct a proof of `q(M)ᵀ = q(Mᵀ)`. -/
+def mkTransposeProof {u : Level} {α : Q(Type u)} {m n : ℕ} (M : Matrix (Fin m) (Fin n) Q($α)) :
+    Quoted (mkTransposeProp M) :=
+  -- we want `$lhs = $rhs`, but our proof is `pf' : $lhs = $rhs'`, where we know that `$rhs'` will
+  -- be defeq to `$rhs`, therefore we construct the proof `@id ($lhs = $rhs) pf' : $lhs = $rhs`.
+  -- This proof cannot be `q()` quoted because it won't compile in compilation time, it will only
```
Comment (eric-wieser) [inline Mathlib/Tactic/Simproc/Matrix.lean]: I don't understand what this is trying to say, nor do I believe it's conclusion.

Comment (eric-wieser) [reply Mathlib/Tactic/Simproc/Matrix.lean]: > where we know that `$rhs'` will be defeq to `$rhs`

This is spelt `haveI : $rhs =Q $rhs'` or similar

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 9]
```diff
@@ -0,0 +1,155 @@
...
+```lean
+example : (!![1, 2, 3; 4, 5, 6]ᵀ : Matrix (Fin (2+1)) (Fin 2) ℤ) = !![1, 4; 2, 5; 3, 6] := by
+  simp
+```
+-/
+simproc matrix_transpose (Matrix.transpose (Matrix.of _)) := .ofQ fun u α eMT ↦ do
+  let .succ _ := u | return .continue
+  let ~q(@Matrix (Fin (OfNat.ofNat $en)) (Fin (OfNat.ofNat $em)) $R) := α | return .continue
+  let ~q(transpose $eM) := eMT | return .continue
+  let .some M ← matrixLit? (m := em.natLit!) (n := en.natLit!) (R := R) eM | return .continue
```
Comment (eric-wieser) [inline Mathlib/Tactic/Simproc/Matrix.lean]: This will panic if em is not a literal.

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: Consider the following example ([online link](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQOJgCmAdnADKFKkKExJwCKAjngPQC07cAYksOgGc47VjgAmhAGZwYhATACMcABT0scAFyNlgVEIAlHs3aAJPQDUcY+oC8cAAyGN1nHDiokAN0IBJI8tNwFlZG+nDWDPaatoAX5ICX5C5unoRwYNJaDP7mljb2jrZMylCS6IacjEwyAJ5EcCDAAiAoAMaoCalsZQDCAK5QUCTwAhDo3TDAEKQi4lIycjAALCpqRhn6jnAAogAeYFBRCe5eKVAEK8oACidgeXAFAUE5DgkgANYAgmBgAEy3ygACwDEADoAN52AC+hl2pwKfyK6DgOhUdjgACo4ABmNFwBQGPCEdBIdQAIlk8nmxKMsigIDCAD44P0YL1SGSFr8HBy9DgAMQtQhNF6zcnCLiAxnFIwoiwo2x2DpcACqAm6SARQxGYwmABo4FhRnBgKQQBMkGJhKICUS4KS5gBWSlaam06wMsQQA5JY6ndIXK43ArSyJy7muV7bIhNWRiAAq1UIAAkjfBYfDEcjsVj0bioVdefzBcKYHbRYbzWmtEHZfY8EA)):
```lean
import Mathlib

open Lean Meta Qq

/-- Fails -/
def test1 (a b : Q(ℕ)) : Q($a + $b = 0) :=
  haveI : ($a + $b : ℕ) =Q 0 := ⟨⟩
  have pf : Q($a + $b = 0) := q(rfl) -- Qq type mismatch
  pf

/-- Current solution -/
def test4 (a b : Q(ℕ)) : Expr :=
  have prop : Q(Prop) := q($a + $b = 0)
  mkApp2 q(@id.{0}) prop q(@rfl ℕ (0 * 3 * 1))

elab "test4" : term => return test4 q(0) q(0)
#check test4 -- id rfl : 0 + 0 = 0

/-- Usual solution, but in monad -/
elab "test5" : term => do
  have prop : Q(Prop) := q(0 + 0 = 0)
  mkExpectedTypeHint q(@rfl ℕ (0 * 3 * 1)) prop
#check test5 -- id rfl : 0 + 0 = 0
```

The issue with `test1` is that Qq defeq seems to be a bit hard to work with, I suspect it only works with free variables, so it cannot make `a+b` defeq to anything.

`test4` is the current solution I have, which uses `id`.

`test5` is the solution you used in [#5863, Line 179](https://github.com/leanprover-community/mathlib4/pull/5863/files#diff-3d2bcc333dd8b1e043586c9e660b5f2e762c17f8b1b0ed34b9c3693e562254d4R179), using `mkExpectedTypeHint`, which works well in a monadic context, and it actually also uses `id`, as its docstring claims.

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 6 above)
Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: done

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 7 above)
Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: done

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: I've updated the comment to include this information.

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 9 above)
Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: fixed

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 4 above)
Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: see discussion below

File: Mathlib/Data/Matrix/Notation.lean [hunk 10]
```diff
@@ -234,9 +234,8 @@ theorem transpose_empty_rows (A : Matrix m' (Fin 0) α) : Aᵀ = of ![] :=
 theorem transpose_empty_cols (A : Matrix (Fin 0) m' α) : Aᵀ = of fun _ => ![] :=
   funext fun _ => empty_eq _
 
-@[simp]
-theorem cons_transpose (v : n' → α) (A : Matrix (Fin m) n' α) :
-    (of (vecCons v A))ᵀ = of fun i => vecCons (v i) (Aᵀ i) := by
+theorem cons_transpose (v : n' → α) (A : (Fin m) → n' → α) :
+    (of (vecCons v A))ᵀ = of fun i => vecCons (v i) ((of A)ᵀ i) := by
```
Comment (kckennylau) [inline Mathlib/Data/Matrix/Notation.lean:238]:
```lean
import Mathlib.Data.Matrix.Notation

open Matrix

theorem cons_transpose_old {n' α m} (v : n' → α) (A : Matrix (Fin m) n' α) :
    (of (vecCons v A))ᵀ = of fun i => vecCons (v i) (Aᵀ i) :=
  Matrix.cons_transpose v A

theorem cons_transpose_new {n' α m} (v : n' → α) (A : (Fin m) → n' → α) :
    (of (vecCons v A))ᵀ = of fun i => vecCons (v i) ((of A)ᵀ i) :=
  Matrix.cons_transpose v A

example : !![1, 2, 3, 4; 5, 6, 7, 8; 9, 10, 11, 12]ᵀ = sorry := by
  simp only [cons_transpose_old]
  /-
  (of fun i => vecCons (![1, 2, 3, 4] i)
    (![![5, 6, 7, 8], ![9, 10, 11, 12]]ᵀ i)) = sorry
  -/

example : !![1, 2, 3, 4; 5, 6, 7, 8; 9, 10, 11, 12]ᵀ = sorry := by
  simp only [cons_transpose_new, transpose_empty_cols]
  /-
  (of fun i =>
    vecCons (![1, 2, 3, 4] i)
      (of (fun i => vecCons (![5, 6, 7, 8] i)
        (of (fun i => vecCons (![9, 10, 11, 12] i)
          (of (fun x => ![]) i)) i)) i)) = sorry
  -/
```
([online](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMB0ARFJHZGKYADxwDkIYVgIA7AKGYjAFNHEUzzW0HaBxBwAxkwDOAfVJJGkyJI7SI6ACZwA3owDkcQI3AcEAF84ACgBucAFxw9cQEmEhgJQWAgrZ6kKFgGLA3CBuDgZuNsxwURYQAGYWlhxiAMJScNbuLi6AArhwALxwcXCxAK7cwPkAfOlJqQoJcMBu5u65TbZ5kd58OBIKslDyihDK6XDuAqhCUCLiUgNDSiqMHADu2qHGZlZeDs5hHl7mAUFuznuutl1R5kVWtWkZWbkFRaXlVTUpaTvt5rfxTJtcKdKIkHp9GRyBRLMYTZgcchIcDoDheACE6IA2gBGAA0cAATASAMwEgAsAG44ABWAkANgJAHYCQAOakATgJOIADNz8XAcYSALovOCSaBQACeHTgWClXUkoDAhUY6BlWMhCxhIxUanUwq6AHoALRdAHFMqNT6Jb71czYgXEuBkuDk4WNFzXCzY7F0uCMuAsuCs4UE7FcwV8wUCoXC0WetwFCVQaVdE1G1iI5FgVEYx0E52uqm0hnMtmc7nRnGxkVilPS2XyxXK1XquCa+bQ4bKaQrVYE7tLaQiMAwKXSCToSSGqKm81vK0VPKVb22uqSH24wukikeprem53d7WldfDdb/2B4Ohz2H6IW8wn5fVdc/CNV/nckV36J/h/Hla5CfNiwpuE04FZIm+TipKCpRBmzBAA))

Comment (kckennylau) [reply Mathlib/Data/Matrix/Notation.lean:238]: the current lemma abuses defeq and so it gets stuck after the first step, which this change solves.

(I'm also additionally removing the simp attribute because it messes with the simproc.)

File: Mathlib/Tactic/Simproc/Matrix.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/Tactic/Simproc/Matrix.lean]: I have made Qq to compile by using a free variable in the defeq claims:
```lean
import Mathlib

open Lean Meta Qq Tactic Elab

def test2 (a b : Q(ℕ)) : Q($a + $b = 0) :=
  have c : Q(ℕ) := q($a + $b)
  haveI : $c =Q 0 := ⟨⟩
  have pf : Q($c = 0) := q(rfl)
  pf
elab "test2" : term => return test2 q(0) q(0)
#check test2 -- rfl : 0 + 0 = 0 + 0


def test3 (a b : Q(ℕ)) :
    Elab.TermElabM Expr := do
  have c : Q(ℕ) := q($a + $b)
  have : $c =Q 0 := ⟨⟩
  have pf : Q($c = 0) := q(rfl)
  let .some h ← checkTypeQ pf q($a + $b = 0) | throwError "aaa"
  return h
    
elab "test3" : term => test3 q(0) q(0)
#check test3 -- rfl : 0 + 0 = 0 + 0
```

But as you can see from the result, even though the tactic compiles in compile-time, it actually outputs the wrong type in run-time, even if one uses `checkTypeQ`.

File: Mathlib/Tactic/Simproc/Matrix.lean [hunk 11]
```diff
@@ -0,0 +1,203 @@
...
+simproc matrix_transpose (Matrix.transpose (Matrix.of _)) := .ofQ fun u α eMT ↦ do
+  let .succ _ := u | return .continue
+  let ~q(@Matrix (Fin $en) (Fin $em) $R) := α | return .continue
+  let .some m := em.nat? | return .continue
+  let .some n := en.nat? | return .continue
+  let ~q(transpose $eM) := eMT | return .continue
+  let .some M ← matrixLit? (m := m) (n := n) (R := R) eM | return .continue
+  have rhs := mkTranspose.rhs M
+  have h := mkTranspose.proof' M
+  return .visit { expr := rhs, proof? := .some h }
```
Comment (eric-wieser) [inline Mathlib/Tactic/Simproc/Matrix.lean]:
```suggestion
  return .visit <| .mk q(rhs) <| .some q($h)
```
makes this qq-safe (`.mk` is not `{}` here)
